US07253285B2
To a suspension of (R)-(−)-2-phenylglycinol (15.34 g, 111.82 mmol) and rhodanine (14.65 g, 110 mmol) in acetonitrile (200 mL) was added DIPEA (20.03 mL, 115 mmol) at room temperature. Then, it gave a clear solution within 2 min and this solution was cooled to 0° C. To this, mercuric chloride (31.22 g, 115 mmol) was added in three portions within a period of 15 min. After addition, the suspension was allowed to warm to room temperature and stirred for 2 days. The resulting black solids were filtered through a plug of celite and washed with dichloromethane (500 mL) and methanol (1.0 L). The combined solvents were removed under the vacuum and the crude residue was diluted with water (250 mL) and ethyl acetate (250 mL). The two layers were separated and the aqueous layer was extracted with dichloromethane (2×250 mL). The two organic extracts were washed separately with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude yellow solid. This solid was dissolved in acetonitrile (˜100 mL) at hot condition and then stored in the refrigerator overnight. The solids were collected by filtration and washed with cold acetonitrile. After drying in air, 12.99 g (50% yield) of 2-(2-hydroxy-1-(R)-phenyl-ethylamino)-thiazol-4-one was isolated as a white amorphous solid: EI-HRMS m/e calcd for C11H12N2O2S (M-H2O) 218.0514, found 218.0511.

reactant | (R)-(−)-2-phenylglycinol | 111.82 mmol, 15.34 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | rhodanine | 110 mmol, 14.65 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIPEA | 115 mmol, 20.03 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | acetonitrile | ˜100 mL | C(C)#N | C2H3N
product | 2-(2-hydroxy-1-(R)-phenyl-ethylamino)-thiazol-4-one | 12.99 g, 50% yield | OC[C@@H](C1=CC=CC=C1)NC=1SCC(N1)=O | C11H12N2O2S
